US07521579B2
E5.1: Hydroxy-(4-hydroxy-3-methoxy-phenyl)-acetonitrile
Sodium cyanide (10.2 g) is dissolved in water (40 ml) and cooled to 0° C. A second solution comprising vanillin (15.5 g) and ethanol (30 ml) is added at 0° C. Now, concentrated hydrochloric acid (28.5 g 32%) is added to the mixture at 0 to +5° C. within 30 to 45 minutes and the dropping funnel is rinsed with water (10 ml). After confirming that the conversion has proceeded to a satisfactory level by HPLC, the mixture is worked up by extracting repeatedly with t-butyl methyl ether (3×50 ml). The collected organic phases are washed twice with 10% aqueous bisulfite (50 ml) and once with water (40 ml). Finally, the product solution is dried and the solvent is evaporated in vacuum to yield the crude product as a yellow oil, which crystallized on standing (mp 80-81° C.). If the already pure product needs further purification, it can be crystallized from ether/hexane (m.p82-83° C.).

reactant | Sodium cyanide | 10.2 g | [C-]#N.[Na+]
reactant | vanillin | 15.5 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 28.5 g | Cl | ClH
solvent | water | 40 ml | O | H2O
product | Hydroxy-(4-hydroxy-3-methoxy-phenyl)-acetonitrile | OC(C#N)C1=CC(=C(C=C1)O)OC | C9H9NO3
